US03974212
Step B: 2-Methylene-2',3'-dichloro-4'-methoxyisovalerophenone
A stirred mixture of 2',3'-dichloro-4'-methoxyisovalerophenone (261.6 g., 1.0 mole), paraformaldehyde (75.0 g., 2.5 mole), dimethylamine hydrochloride (327 g., 4.0 mole) and acetic acid (26 ml.) is heated on a steam bath for 18 hours, treated with DMF (500 ml.), heated an additional 3 hours, then poured into ice water (1.7 l.). The crude product which separates is dissolved in benzene (600 ml.) and dried over sodium sulfate. Evaporation of the benzene affords 237 g. of 2-methylene-2',3'-dichloro-4'-methoxyisovalerophenone which melts at 46°-51°C. and is used in Step C without further purification.

reactant | 2',3'-dichloro-4'-methoxyisovalerophenone | 1.0 mole, 261.6 g | ClC1=C(C=CC(=C1Cl)OC)C(CC(C)C)=O | C12H14Cl2O2
reactant | paraformaldehyde | 2.5 mole, 75.0 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 4.0 mole, 327 g | Cl.CNC
reactant | acetic acid | 26 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 2-Methylene-2',3'-dichloro-4'-methoxyisovalerophenone | C=C(C(=O)C1=C(C(=C(C=C1)OC)Cl)Cl)C(C)C | C13H14Cl2O2
